US06943275B2
Preparation of 2,7-dibromo-9-(bis-hexylsulfanyl-methylene)fluorene:
A 60% dispersion of sodium hydride in mineral oil (0.26 g, 6.5 mmol) was added under nitrogen to 2,7-dibromofluorene (1.000 g, 3.09 mmol) in anhydrous dimethylsulfoxide (20 mL) at room temperature with stirring. The reaction mixture was stirred at room temperature for 10 minutes. Carbon disulfide (0.25 g, 0.2 mL, 3.3 mmol) was added via syringe and the reaction mixture was stirred at room temperature for 10 minutes. 1-Bromohexane (1.08 g, 6.5 mmol) was added and the reaction mixture was stirred at room temperature for 4 h. Ice-water (100 mL) was added and the resulting solid was filtered. The crude product was purified by recrystallization from iso-hexane to afford 1.225 g, (70%) as a bright yellow solid, purity 100% (GC): 1H and 13C NMR spectra as expected; M+=568 (t).

reactant | sodium hydride | [H-].[Na+]
reactant | 2,7-dibromofluorene | 3.09 mmol, 1.000 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | Carbon disulfide | 3.3 mmol, 0.2 mL, 0.25 g | C(=S)=S | CS2
reactant | 1-Bromohexane | 6.5 mmol, 1.08 g | BrCCCCCC | C6H13Br
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
product | 2,7-dibromo-9-(bis-hexylsulfanyl-methylene)fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=C(SCCCCCC)SCCCCCC | C26H32Br2S2
